US04565815
4-(4-Imidazolylethylamino)-2-methylthiopyrazolo(1,5-a)-1,3,5-Triazine
A solution of 30 mg 4-chloro-2-methylthiopyrazolo(1,5-a)-1,3,5-triazine and 33 mg free histamine in 3 ml of methanol is stirred at room temperature overnight. After evaporation of solvent, the residue is dissolved in ethylacetate, washed with water, and dried over MgSO4. After removal of solvent, the residue is subject to silica gel preparative thin layer chromatography using CHCl3 /methanol=9:1 as a developing solvent. Appropriate fractions are isolated, extracted with CHCl3 /CH3OH (3:1), and solvent removed in vacuo to dryness. 20 mg of a white solid are recovered. TLC (silica gel CHCl3 /CH3OH=3:1) Rf=0.15.

reactant | 4-chloro-2-methylthiopyrazolo(1,5-a)-1,3,5-triazine | 30 mg | ClC1=NC(=NC=2N1N=CC2)SC | C6H5ClN4S
reactant | histamine | 33 mg | NCCC1=CNC=N1 | C5H9N3
solvent | methanol | 3 ml | CO | CH4O
product | 4-(4-Imidazolylethylamino)-2-methylthiopyrazolo(1,5-a)-1,3,5-Triazine | N1C=NC(=C1)CCNC1=NC(=NC=2N1N=CC2)SC | C11H13N7S
